US07855202B2
3-Bromo-5-nitro-2,3′-bipyridin-6-amine
To a 0° C. cooled stirred solution of 5-nitro-2,3′-bipyridin-6-amine (4.8 g, 22.2 mmol) in DMF (50 mL), N-bromosuccinimide (4.75 g, 26.7 mmol) was added in portions. After stirring at room temperature for 16 h, the solvent was removed under reduced pressure. The crude residue was solved with ethyl acetate and washed with saturated potassium carbonate aqueous solution. The organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was purified by silica gel flash chromatography (95:5 dichloromethane/methanol) to give the title compound (6.6 g, 100%) as a solid.

reactant | 5-nitro-2,3′-bipyridin-6-amine | 22.2 mmol, 4.8 g | [N+](=O)([O-])C=1C=CC(=NC1N)C=1C=NC=CC1 | C10H8N4O2
reactant | N-bromosuccinimide | 26.7 mmol, 4.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-5-nitro-2,3′-bipyridin-6-amine | 6.6 g, 100% | BrC=1C(=NC(=C(C1)[N+](=O)[O-])N)C=1C=NC=CC1 | C10H7BrN4O2
